US08492549B2
(S)-1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-(2-methoxyethoxymethyl)-3-methylpiperidine
Prepared from {(S)-1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-methylpiperidin-3-yl}-methanol using the procedure for preparation of 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methoxymethyl-3-methylpiperidine except that 1-bromo-2-methoxyethane was used instead of methyl iodide.

reactant | {(S)-1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-methylpiperidin-3-yl}-methanol | O1[C@H](COC2=C1C=CC=C2)CN2C[C@@](CCC2)(C)CO | C16H23NO3
reactant | 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methoxymethyl-3-methylpiperidine | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(C)COC | C17H25NO3
reactant | 1-bromo-2-methoxyethane | BrCCOC | C3H7BrO
product | (S)-1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-(2-methoxyethoxymethyl)-3-methylpiperidine | O1[C@H](COC2=C1C=CC=C2)CN2C[C@@](CCC2)(C)COCCOC | C19H29NO4
